US04128650
7H-Dibenzo[de,h]quinol-7-one (48.4 g) and Adams platinum (16 g) suspended in acetic acid (800 cc) are placed under an initial hydrogen pressure of 30 bars at 25° C. The mixture is stirred and heated at 65° C. for 17 hours. After cooling to about 25° C., the catalyst is filtered off and washed twice with acetic acid (total 150 cc). The combined organic filtrates are evaporated to dryness. The residue is taken up in water (1000 cc) and adjusted to pH 9 by the addition of 5N sodium hydroxide. The resulting precipitate is filtered off, washed twice with distilled water (total 2000 cc) and four times with ethanol (total 100 cc) and then dried under reduced pressure (20 mm Hg) at 20° C. Crude 7-hydroxy-5,6,8,9,10,11-hexahydro-4H-dibenzo[de,h]quinoline (46.1 g), melting at 224° C., is thus obtained, which is recrystallised successively from butyl acetate and from propanol as described in Example 3.

reactant | 7H-Dibenzo[de,h]quinol-7-one | 48.4 g | N1=CC=C2C=3C(C(C4=C(C13)C=CC=C4)=O)=CC=C2 | C16H9NO
solvent | acetic acid | 800 cc | C(C)(=O)O | C2H4O2
catalyst | platinum | 16 g | [Pt] | Pt
product | 7-hydroxy-5,6,8,9,10,11-hexahydro-4H-dibenzo[de,h]quinoline | 46.1 g | OC1=C2C=3C(=CC=NC3C3=C1CCCC3)CCC2 | C16H17NO
